US04839379
1-(4-Acetylaminophenyl)-3-allyl-3-azabicyclo[3.1.0]hexane-2,4-dione
1.2 g of 1-(4-acetylaminophenyl)-3-azabicyclo[3.1.0]hexane-2,4dione are dissolved in 25 ml of dimethylformamide and to this solution are added 180 mg of sodium hydride under nitrogen. The mixture is stirred for 1 hour at room temperature. The clear, pale yellow solution is cooled in an ice-water bath and then a solution of 0.65 ml of allyl bromide in 5 ml of dimethylformamide is added dropwise. The reaction mixture is stirred overnight and then the solvent is stripped off. The residue is partitioned twice between ethyl acetate and water. The organic phases are dried over magnesium sulfate, filtered and concentrated, and the residue is crystallised from ethyl acetate/ether/petroleum ether. The title compound is obtained in the form of white crystals with a melting melting point of 113°-116° C. and with Rf=0.33 on thin-layer silica gel plates in the system methylene chloride/methanol (10:1).

reactant | 1-(4-acetylaminophenyl)-3-azabicyclo[3.1.0]hexane-2,4dione | 1.2 g | C(C)(=O)NC1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C13H12N2O3
reactant | sodium hydride | 180 mg | [H-].[Na+]
reactant | allyl bromide | 0.65 ml | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(4-Acetylaminophenyl)-3-allyl-3-azabicyclo[3.1.0]hexane-2,4-dione | C(C)(=O)NC1=CC=C(C=C1)C12C(N(C(C2C1)=O)CC=C)=O | C16H16N2O3
